US04670551
A solution of 7.9 g of 3β,11β-dihydroxy-15β,16β-methyleneandrost-5-en-17-one in 39.5 ml of pyridine and 39.5 ml of acetic anhydride is left to stand at room temperature for 5 hours, diluted with 800 ml of ice-water and, after standing for 1 hour, extracted with ethyl acetate. The organic phase is washed in succession with saturated sodium chloride solution, ice-cold dilute hydrochloric acid, ice-cold dilute sodium hydroxide solution and again with saturated sodium chloride solution, dried, and concentrated under a water-jet vacuum. Chromatography of the crude product over 30 times the amount by weight of silica gel and elution with a mixture of methylene chloride/acetone (98:2) yield 3β-acetoxy-11β-hydroxy-15β,16β-methyleneandrost-5-en-17-one which, after being dissolved and recrystallised once from methylene chloride/ether/petroleum ether, melts at 209°-211°.

reactant | 3β,11β-dihydroxy-15β,16β-methyleneandrost-5-en-17-one | 7.9 g | O[C@@H]1CC2=CC[C@H]3[C@@H]4[C@H]5[C@@H](C([C@@]4(C)C[C@@H]([C@@H]3[C@]2(CC1)C)O)=O)C5 | C20H28O3
reactant | acetic anhydride | 39.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 39.5 ml | N1=CC=CC=C1 | C5H5N
product | 3β-acetoxy-11β-hydroxy-15β,16β-methyleneandrost-5-en-17-one | C(C)(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4[C@H]5[C@@H](C([C@@]4(C)C[C@@H]([C@@H]3[C@]2(CC1)C)O)=O)C5 | C22H30O4
